US07094801B2
4-[3E-(2-Hydroxy-4-methoxy-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
2-Hydroxy-4-methoxy-5-thiophen-2-yl-benzaldehyde (Ex-29B, 0.10 g, 0.43 mmol) and 4-acetylbenzoic acid (0.070 g, 0.43 mmol) were dissolved in a dimethylformamide-methanol solution (2.8 mL, 7:3). After complete dissolution, lithium methoxide (0.065 g, 1.7 mmol) was added and the resulting red slurry was stirred in the dark at room temperature for 18 h. The mixture was diluted with water (10 mL), acidified with a 1 N hydrochloric acid solution, and extracted with ethyl acetate (3×20 mL). The combined organic extracts were dried over sodium sulfate and evaporated to dryness. The crude oil was taken up in ethyl alcohol (5 mL) and warmed to 60° C. to obtain complete dissolution and allowed to cool to room temperature. Note: the compound appears to decompose with heating. The resulting precipitate was collected on filter paper and dried in vacuo to yield 0.025 g (15%) of the title compound as a dark yellow solid, mp 125° C. (dec). 1H-NMR (300 MHz, DMSO-d6) δ 10.73 (s, 1H), 8.18–8.22 (m, 3H), 8.09 (d, 2H, J=8.1 Hz), 8.05 (s, 1H), 7.87 (d, 1H, J=14.7 Hz), 7.60 (d, 1H, J=3.0 Hz), 7.49 (d, 1H, J=4.2 Hz), 7.11 (dd, 1H, J=4.2, 3.0 Hz), 6.67 (s, 1H), 3.90 (s, 3H). MS (ESI) m/z=381 ([M+H]+, 100%). Anal. Calcd. for C21H16O5S.EtOH: C, 64.77; H, 5.20; S, 7.52. Found: C, 64.68; H, 5.00; S, 7.77.

reactant | 2-Hydroxy-4-methoxy-5-thiophen-2-yl-benzaldehyde | 0.43 mmol, 0.10 g | OC1=C(C=O)C=C(C(=C1)OC)C=1SC=CC1 | C12H10O3S
reactant | 4-acetylbenzoic acid | 0.43 mmol, 0.070 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | lithium methoxide | 1.7 mmol, 0.065 g | C[O-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylformamide methanol | 2.8 mL | CN(C=O)C.CO
solvent | water | 10 mL | O | H2O
product | 4-[3E-(2-Hydroxy-4-methoxy-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 0.025 g, 15% | OC1=C(C=C(C(=C1)OC)C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C21H16O5S
